US07019003B2
3-benzyloxyamino-(2R)-pentylpropionic acid
To a mixture of (R)-1-benzyloxy-3-pentylazetidin-2-one (0.96 g, 3.89 mmol) in a mixture of THF-H2O-MeOH (50 mL, 3:1:1 v/v) was added lithium hydroxide monohydrate (1.91 g, 38.9 mmol). After stirring at room temperature overnight, water (25 mL) was added to the mixture. The solution was acidified to pH 5˜6 with 3N aqueous HCl solution. It was extracted with EtOAc (50 mL×2). The combined organic layers were dried over MgSO,: Removal of the solvent under vacuum provided the title compound (0.98 g, 95%). 1H NMR (400 MHz, CHCl3) δ 9.80 (br s, 1H), 7.37 (m, 5H), 4.75 (m, 2H), 3.14 (m, 2H), 2.74 (m, 1H), 1.70 (m, 1H), 1.53 (m, 1H), 1.38-1.25 (m, 6H), 0.91 (t, J=6.8 Hz, 3H). MH+266.

reactant | (R)-1-benzyloxy-3-pentylazetidin-2-one | 3.89 mmol, 0.96 g | C(C1=CC=CC=C1)ON1C([C@@H](C1)CCCCC)=O | C15H21NO2
reactant | lithium hydroxide monohydrate | 38.9 mmol, 1.91 g | O.[OH-].[Li+]
reactant | water | 25 mL | O | H2O
reactant | HCl | 3N | Cl | ClH
reactant | THF H2O MeOH | 50 mL | C1CCOC1.O.CO
product | 3-benzyloxyamino-(2R)-pentylpropionic acid | 0.98 g, 95% | C(C1=CC=CC=C1)ONC(CC[C@H](C(=O)O)C)CC | C15H23NO3
